US07456175B2
Step 1: N-[2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-acetamide
A mixture of 4.6 g (27 mmol) N-(2-chloropyridin-4-yl)acetamide (commercially available) and 5.2 g (41 mmol) 1-(2-propyl-)-piperazine in 2 ml DMF was heated to 150° C. for 4 h. Purification of the crude mixture with flash column chromatography on silica eluting with a gradient formed from DCM (1% NEt3) and methanol yielded after evaporation of the product fractions 3.38 g (47%) of the title compound as white solid. MS: (m/e): 263.4 (MH+).

reactant | N-(2-chloropyridin-4-yl)acetamide | 27 mmol, 4.6 g | ClC1=NC=CC(=C1)NC(C)=O | C7H7ClN2O
reactant | 1-(2-propyl-)-piperazine | 41 mmol, 5.2 g | CC(C)N1CCNCC1 | C7H16N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-[2-(4-Isopropyl-piperazin-1-yl)-pyridin-4-yl]-acetamide | C(C)(C)N1CCN(CC1)C1=NC=CC(=C1)NC(C)=O | C14H22N4O
